US07781452B2
(2i) 2-(((4-Methoxy-3-methyl-2-pyridinyl)methyl)sulfinyl)-6-methyl-5-(2,2,2-trifluoroethoxy)-3H-imidazo[4,5-b]pyridine
2-(((4-Methoxy-3-methyl-2-pyridinyl)methyl)thio)-6-methyl-5-(2,2,2-trifluoroethoxy)-3H-imidazo[4,5-b]pyridine (270 mg, 0.68 mmol) was dissolved in a mixture of methanol (2 ml) and toluene (18 ml), and a solution of metachloroperbenzoic acid (162 mg) in a mixture of methanol (0.5 ml) of toluene (0.5 ml) were added dropwise at −40° C. under nitrogen flow. After stirred at −20° C. to −40° C. for 2 hours, a sodium bicarbonate solution was added, the mixture was extracted with chloroform (30 ml), and dried over sodium sulfate. The solvent was evaporated, and the solid was precipitated from a mixture of chloroform and n-hexane to yield the title compound (263 mg, 0.63 mmol, 93%) as a purple gray solid.

reactant | 2-(((4-Methoxy-3-methyl-2-pyridinyl)methyl)thio)-6-methyl-5-(2,2,2-trifluoroethoxy)-3H-imidazo[4,5-b]pyridine | 0.68 mmol, 270 mg | COC1=C(C(=NC=C1)CSC1=NC=2C(=NC(=C(C2)C)OCC(F)(F)F)N1)C | C17H17F3N4O2S
reactant | metachloroperbenzoic acid | 162 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.5 ml | CO | CH4O
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(((4-Methoxy-3-methyl-2-pyridinyl)methyl)sulfinyl)-6-methyl-5-(2,2,2-trifluoroethoxy)-3H-imidazo[4,5-b]pyridine | 0.63 mmol, 263 mg, 93% | COC1=C(C(=NC=C1)CS(=O)C1=NC=2C(=NC(=C(C2)C)OCC(F)(F)F)N1)C | C17H17F3N4O3S
